US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-fluoro-5-nitroaniline to yield 2-[(2-fluoro-5-nitrophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-fluoro-5-nitroaniline | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
product | 2-[(2-fluoro-5-nitrophenyl)amino]phenylacetic acid | FC1=C(C=C(C=C1)[N+](=O)[O-])NC1=C(C=CC=C1)CC(=O)O | C14H11FN2O4
